US06822101B2
(2R)-1-(3-butynyl)-2-methylpyrrolidine
A sealed pressure tube was charged potassium carbonate powder (18.4 g, 133.2 mmol, 325 mesh), milled (2R)-2-methylpyrrolidine tartrate (20.9 g, 88.8 mmol), 3-butynyl 4-methylbenzenesulfonate (15.7 mL, 88.8 mmol), and acetonitrile (105 mL). The mixture was heated at 85° C. and stirred for 16 hours. The completion of the reaction was monitored by gas chromatography until all the tosylate was consumed. The reaction mixture was cooled to room temperature, diluted with CH3CN (50 mL), and filtered. The filtrate was used in the next step without further purification. GC-MS m/z 138 (M+H)+.

reactant | potassium carbonate | 133.2 mmol, 18.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2R)-2-methylpyrrolidine tartrate | 88.8 mmol, 20.9 g | C(=O)(O)C(O)C(O)C(=O)O.C[C@H]1NCCC1
reactant | 3-butynyl 4-methylbenzenesulfonate | 88.8 mmol, 15.7 mL | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
solvent | acetonitrile | 105 mL | C(C)#N | C2H3N
product | (2R)-1-(3-butynyl)-2-methylpyrrolidine | C(CC#C)N1[C@@H](CCC1)C | C9H15N
